US09120804B2
1-{4-[8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile (“C65”)
8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine is reacted first with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole using general procedure 1 and then with 1-(4-chlorophenyl)-1-cyclopropanecarbonitrile following general procedure 2.

reactant | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 1-(4-chlorophenyl)-1-cyclopropanecarbonitrile | ClC1=CC=C(C=C1)C1(CC1)C#N | C10H8ClN
product | 1-{4-[8-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile | N1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)C2(CC2)C#N | C18H14N8
